US08871738B2
To 1-bromo-3-methyl-5-(trifluoromethyl)benzene (500 mg, 2.51 mmol) was added THF (5 mL), aqueous tribasic potassium phosphate (2.0 M, 4.18 mL, 8.37 mmol), 2-ethenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (387 mg, 2.51 mmol), palladium(II) acetate (47 mg, 0.209 mmol), and 1,1′-bis(di-t-butylphosphino)ferrocene (99 mg, 0.209 mmol). The system was flushed with nitrogen gas and was heated at 80° C. for 1 hour. The reaction was filtered and then diluted with ethyl acetate and water. The organic layer was dried over sodium sulfate, filtered and concentrated. The crude product was purified by preparative TLC to yield 1-ethenyl-3-methyl-5-(trifluoromethyl)benzene (300 mg, 1.61 mmol). 1H NMR (500 MHz, CDCl3) δ7.47 (s, 1H), 7.40 (s, 1H), 7.34 (s, 1H), 6.76 (m, 1H), 5.85 (d, J=17.6 Hz, 1H), 2.43 (s, 1H).

reactant | 1-bromo-3-methyl-5-(trifluoromethyl)benzene | 2.51 mmol, 500 mg | BrC1=CC(=CC(=C1)C(F)(F)F)C | C8H6BrF3
reactant | potassium phosphate | 8.37 mmol, 2.0 M, 4.18 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-ethenyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 2.51 mmol, 387 mg | C(=C)B1OC(C(O1)(C)C)(C)C | C8H15BO2
catalyst | palladium(II) acetate | 0.209 mmol, 47 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(di-t-butylphosphino)ferrocene | 0.209 mmol, 99 mg | C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-ethenyl-3-methyl-5-(trifluoromethyl)benzene | 1.61 mmol, 300 mg | C(=C)C1=CC(=CC(=C1)C(F)(F)F)C | C10H9F3
